US07858653B2
b) (RS)-(1H-Imidazol-2-yl)-(1-phenyl-propyl)-amine
To a solution of (1H-imidazol-2-yl)-[1-phenyl-meth-(E)-ylidene]-amine (0.19 ml, 1.63 mmol) in toluene (6 ml) was added scandium triflate (59 mg, 0.12 mmol). An ethereal solution of ethylmagnesium bromide (0.97 ml, 3 M, 2.91 mmol) was then added dropwise and the reaction mixture was stirred at room temperature for 2 hours and then quenched by the addition of saturated aqueous ammonium chloride solution. The mixture was extracted twice with ether and the organic phases were dried over sodium sulfate and concentrated in vacuo. The residue was purified by chromatography on silica gel (eluant:methanol/dichloromethane 0:100 to 10:90) to yield the title compound as a brown gum (67 mg, 29%); MS (ISP): 202.4 ([M+H]+).

reactant | (1H-imidazol-2-yl)-[1-phenyl-meth-(E)-ylidene]-amine | 1.63 mmol, 0.19 ml | N1C(=NC=C1)/N=C/C1=CC=CC=C1 | C10H9N3
reactant | ethylmagnesium bromide | 2.91 mmol, 3 M, 0.97 ml | C(C)[Mg]Br
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
catalyst | scandium triflate | 0.12 mmol, 59 mg | [O-]S(=O)(=O)C(F)(F)F.[Sc+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
product | (RS)-(1H-Imidazol-2-yl)-(1-phenyl-propyl)-amine | 67 mg, 29% | N1C(=NC=C1)NC(CC)C1=CC=CC=C1 | C12H15N3
